data/specific_train_final.csv
"[H:3][C:2](=[O:1])[C:4](=[CH2:6])[CH3:5].[N+:8](=[O:10])([O-:9])[O:7]>>[H:3][O:7][N+:8](=[O:10])[O-:9].[CH3:5][C:4](=[CH2:6])[C:2]=[O:1] 2,3-2; 2,3-3,7; 7-7,3",Room Temperature,Propagation,abstraction
"[H:20][C:21](=O)C1(C(O1)/C(=C\C(=O)C)/C)C.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].C/C(=C/C(=O)C)/C1C(O1)(C)[C:21]=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC12C=C[CH:10]C(C1O)[O:20][O:21]2>>CCCC1(C=C[CH:10]2C(C1O)[O:20]2)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
[O:31][N:40]=[O:41]>>[O-:31][N+:40]=[O:41] 40-31,Room Temperature,Propagation,ha resonance
"CC(C(C)(C)O)[O:20][O:21]N=O>>CC(C(C)(C)O)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH2:1]=[C:2](C)[CH:3]([O:10][O:11])[CH2:4][OH:5].[H:20][O:21][O:22]>>[CH2:1]=[C:2](C)[CH:3]([O:10][O:11][H:20])[CH2:4][OH:5].[O:21][O:22] 11-11,20;21,20-11,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCCOC(CO)O[O:20].[N:10]=O>>CCCCOC(CO)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCCCCCCC(CC)[O:20].[N+:10](=O)[O-]>>CCCCCCCCC(CC)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][CH:22]COO.[O:10][O]>>[H:20][O:10][O].C([CH:22]=[O:21])OO 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"CCCCC[O:20][O:21]N=O>>CCCCC[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[O:10][O:20][Cl:21]>>[O:10][O:20].[Cl:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCCC(CO[O:20])O[N+](=O)[O-].[N+](=O)([O-])[O:10]>>CCCCC(CO[O:20][O:10][N+](=O)[O-])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][C:21](C)(CC)CCC.[Cl:10]>>[H:20][Cl:10].CCC[C:21](C)CC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[C:21]1=[CH:20]C(C(C=C1)(C)O[O:10])O>>C[C:21]1C=CC2(C([CH:20]1[O:10]O2)O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCC12C=C(C(C(C1O)(OO2)C)O[O:20])C.[N+](=O)([O-])[O:10]>>CCC12C=C(C(C(C1O)(OO2)C)O[O:20][O:10][N+](=O)[O-])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(=O)CC[O:20].[N+:10](=O)[O-]>>CCC(=O)CC[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:9][CH2:8][CH2:7][CH:6]([CH2:10][CH3:11])[O:5][O:4][O:3][N+:2](=[O:12])[O-:1]>>[CH3:9][CH2:8][CH2:7][CH:6]([CH2:10][CH3:11])[O:5][O:4][O:3].[N+:2](=[O:12])[O-:1] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
c1ccccc1C(CO[N+]([O-])=O)[O].[O:20][N:10]=O>>c1ccccc1C(CO[N+]([O-])=O)[O].[O-:20][N+:10]=O 10-20,Room Temperature,Propagation,ha resonance
"CC(C)(C(CO[N+](=O)[O-])[O:20][O:21][O])O>>CC(C)(C(CO[N+](=O)[O-])[O:20])O.[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"c1ccccc1C(CO)OO[O:20][N+:10]([O-])=O>>c1ccccc1C(CO)OO[O:20].[N+:10]([O-])=O 10,20-10;10,20-20",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CCOC(CO)O[O:10]>>[H:20][O:10]OC(CO)OCC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].COC(=O)CO[O:10]>>[H:20][O:10]OCC(=O)OC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][C:21](C)(CC)OC(=O)C.[OH:10]>>[H:20][OH:10].CC[C:21](C)OC(=O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)(C1=CC=CC=C1)[O:20].[N+:10](=O)[O-]>>CC(C)(C1=CC=CC=C1)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCOO[O:20][N+:21](=O)[O-]>>CCCOO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1(C2CC1C(C(C2)O[N+]([O-])=O)(C)O[O:20])C.[N:10]=O>>CC1(C2CC1C(C(C2)O[N+]([O-])=O)(C)O[O:20][N:10]=O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC1(C=C[CH:21]=[C:20](C1O)C)O[O:10]>>CCC12C=C[CH:21][C:20](C1O)(C)[O:10]O2 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][O:21][O].CC(=O)OC(C)(C)O[O:10]>>[H:20][O:10]OC(C)(C)OC(=O)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC(C(C)O[O:20])O.[N+](=O)([O-])[O:10]>>CCCC(C(C)O[O:20][O:10][N+](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(=O)[O:20][O:21]OO>>CCCC(=O)[O:20].OO[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][C:22](C)COO.[O:10][O]>>[H:20][O:10][O].C[C:22](=[O:21])COO 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"[H:15][CH:14]([C:5]([CH3:17])([C:6]([H:7])([CH2:12][OH:13])[O:8][O:9][N:10]=[O:11])[O:4][N+:2](=[O:1])[O-:3])[OH:16]>>[H:15][CH:14]([C:5]([CH3:17])([C:6]([H:7])([CH2:12][OH:13])[O:8])[O:4][N+:2](=[O:1])[O-:3])[OH:16].[N:10](=[O:11])[O:9] 9,8-9; 9,8-8",Room Temperature,Initiation,homolyze
"CC(=O)OC(C)(C)COO[O:20][N+:21](=O)[O-]>>CC(=O)OC(C)(C)COO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
